US04267176
Phosphoryl chloride (0.998 g.) was added to N,N-dimethylformamide (5 ml.) and stirred at 40° C. for 30 minutes. To the solution was added a solution of 2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetic acid (syn isomer) (1.125 g.) in N,N-dimethylformamide (5 ml.) at -15° C., and stirred at -10° to -8° C. for 50 minutes [solution A]. On the other hand, 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2.007 g.) and trimethylsilylacetamide (7.22 g.) were dissolved in methylene chloride (20 ml.) at 40° C. and cooled. To the cool solution was added the above solution A at -20° to -15° C. and stirred at the same temperature for 40 minutes. The resultant solution was poured into a solution of a saturated aqueous solution of sodium bicarbonate (30 ml.) and water (40 ml.) under ice cooling. The aqueous layer was separated, washed with ethyl acetate, and then ethyl acetate (50 ml.) was added to the aqueous layer. The solution was adjusted to pH 3 with 10% hydrochloric acid, and extracted with ethyl acetate twice. The extract was washed with water and concentrated to a small amount under reduced pressure. The appeared precipitates were collected by filtration, washed with ethyl acetate and dried to give 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (873 mg.). The same product (126 mg.) was recovered from the mother liquor. Total yield was 999 mg.

reactant | Phosphoryl chloride | 0.998 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetic acid | 1.125 g | C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NOC | C9H9N3O4
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.007 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | trimethylsilylacetamide | 7.22 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
product | 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 873 mg | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOC | C19H19N9O6S2
